US04492692
5-Methylisoxazole-3-carboxylic acid and 4-(2-aminoethyl)-2-fluoro-1-triphenylmethylimidazole were reacted by the mixed anhydride procedure described for the starting material of Example 24, to give 2-fluoro-4-[2-(5-methylisoxazole-3-carboxamido)ethyl]-1-triphenylmethylimidazole. It had the following n.m.r. spectrum in d6DMSO: 2.5 (s, 3H); 2.7 (t, 2H); 3.7 (q, 2H); 6.3 (s, 1H); 6.4 (s, 1H); 7.0-7.4 (m, 15H).

reactant | 5-Methylisoxazole-3-carboxylic acid | CC1=CC(=NO1)C(=O)O | C5H5NO3
reactant | 4-(2-aminoethyl)-2-fluoro-1-triphenylmethylimidazole | NCCC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C24H22FN3
product | 2-fluoro-4-[2-(5-methylisoxazole-3-carboxamido)ethyl]-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCNC(=O)C1=NOC(=C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H25FN4O2
